US07399759B2
2-Pyrazinyl-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (1.68 g, 10.0 mmol), cyanopyrazine (1.06 g, 10.1 mmol), triethylamine (2.10 ml, 15.1 mmol) and toluene (10.0 ml) was refluxed at 120° C. for 8 hrs. The solvent was evaporated and the residue was recrystallized from dioxane-hexane to give the titled compound (0.54 g, 22%) as crystals.

reactant | methyl thiosalicylate | 10.0 mmol, 1.68 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | cyanopyrazine | 10.1 mmol, 1.06 g | C(#N)C1=NC=CN=C1 | C5H3N3
reactant | triethylamine | 15.1 mmol, 2.10 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 10.0 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Pyrazinyl-4H-1,3-benzothiazine-4-one | 0.54 g, 22% | N1=C(C=NC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C12H7N3OS
